US05817674
[[2'-(methoxycarbonyl)(1,1'-biphenyl)-4-yl]-methyl]zinc bromide was prepared in advance from 400 mg of zinc in 1 ml of tetrahydrofuran and 1.53 g of methyl 4-(bromomethyl)(1,1'-biphenyl)-2-carboxylate (KNOCHEL, J. Org. Chem., 1988, Vo. 53, p. 5789 to 5791) and 240.69 mg of 4-chloro-2-phenyl-quinazoline and 115 mg of palladium tetrakis(triphenyl-phosphine) complex were added to the solution. The mixture stood at 50° C. for 6 hours and the reaction medium was poured into a water/ice/acetic acid mixture. The aqueous phase was extracted with ethyl acetate and the organic phase was washed with water and water saturated with sodium chloride, dried and evaporated. After chromatography on silica (eluant:ethyl acetate-hexane 1-9 then 2-8), 260 mg of expected product melting at 120° C. to 121° C. after crystallization from isopropyl ether were obtained.

reactant | zinc | 400 mg | [Zn] | Zn
reactant | methyl 4-(bromomethyl)(1,1'-biphenyl)-2-carboxylate | 1.53 g | BrCC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)OC | C15H13BrO2
reactant | 4-chloro-2-phenyl-quinazoline | 240.69 mg | ClC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | [[2'-(methoxycarbonyl)(1,1'-biphenyl)-4-yl]-methyl]zinc bromide | [Br-].COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C[Zn+] | InChI=1S/C15H13O2.BrH.Zn/c1-11-7-9-12(10-8-11)13-5-3-4-6-14(13)15(16)17-2;;/h3-10H,1H2,2H3;1H;/q;;+1/p-1
